### PR TITLE
feat(ErdosProblems): 794

### PR DESCRIPTION
**Pull request by afletcher22**
Adds a formalization of Erdős Problem 794 (disproved; see erdosproblems.com/794). Hope this is a good fit for the repository’s “short counterexample / not a lengthy proof” guideline but I'm happy to adjust if you’d prefer a different level of abstraction. Completed with the assistance of Harmonic's Aristotle and Claude Opus 4.5.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/794.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- A subgraph on 5 vertices with (at least) 7 edges. -/
+abbrev Has5Vertices7Edges {α : Type*} [Fintype α] [DecidableEq α] (H : Finset (Finset α)) : Prop :=
+  HasAtLeastEdgesOnVertices H 5 7
+
+/--
+The statement of **Erdős Problem 794** (as stated on erdosproblems.com), modelling a 3-uniform
+hypergraph on `3n` vertices as a `Finset` of 3-element subsets of `Fin (3 * n)`.
+-/
+def Statement : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/794.lean]: Since you only seem to use this once, I think you might as well inline it!

File: FormalConjectures/ErdosProblems/794.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- Harris's counterexample has exactly 28 edges. -/
+@[category test, AMS 5]
+theorem harrisCounterexample_card : HarrisCounterexample.card = 28 := by native_decide
+
+/-- Harris's counterexample is 3-uniform. -/
+@[category test, AMS 5]
+theorem harrisCounterexample_is3Uniform : Is3Uniform HarrisCounterexample := by
+  unfold Is3Uniform
+  native_decide
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/794.lean]: Can these be closed with `decide` or `decide +kernel` ?

File: FormalConjectures/ErdosProblems/794.lean (hunk 1 above)
Comment (afletcher22) [reply FormalConjectures/ErdosProblems/794.lean]: Fixed

File: FormalConjectures/ErdosProblems/794.lean (hunk 2 above)
Comment (afletcher22) [reply FormalConjectures/ErdosProblems/794.lean]: Tried decide / decide +kernel, but it hit maxRecDepth during lake build.

Comment (afletcher22) [reply FormalConjectures/ErdosProblems/794.lean]: Done, ran this morning and avoided maxRecDepth

File: FormalConjectures/ErdosProblems/794.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+/-- A finite hypergraph is *3-uniform* if every edge has exactly 3 vertices. -/
+def Is3Uniform {α : Type*} (H : Finset (Finset α)) : Prop :=
+  ∀ e ∈ H, e.card = 3
+
+/-- `HasAtLeastEdgesOnVertices H k m` means there exists a set `S` of `k` vertices
+which spans at least `m` edges of `H`. -/
+def HasAtLeastEdgesOnVertices {α : Type*} [Fintype α] [DecidableEq α]
+    (H : Finset (Finset α)) (k m : ℕ) : Prop :=
+  ∃ (S : Finset α) (_ : S ∈ Finset.univ.powersetCard k),
+    (H.filter (fun e => e ⊆ S)).card ≥ m
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/794.lean]:
```suggestion
  ∃ S : Finset α, #S = k \and #{e \in H | e ⊆ S} ≥ m
```
You will need `open Finset` first

File: FormalConjectures/ErdosProblems/794.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+Harris's counterexample provides a 3-uniform hypergraph on `9 = 3 * 3` vertices with
+`28 = 3 ^ 3 + 1` edges that avoids both forbidden configurations.
+-/
+@[category research solved, AMS 5]
+theorem erdos_794 : answer(False) ↔
+    (∀ n : ℕ, ∀ H : Finset (Finset (Fin (3 * n))),
+      Is3Uniform H → n ^ 3 + 1 ≤ H.card →
+        Has4Vertices3Edges H ∨ Has5Vertices7Edges H) := by
+  -- `answer(False)` is `False`, so this is equivalent to `¬ Statement`.
+  simp only [false_iff]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/794.lean:128]:
```suggestion
  simp?
```
and see what it comes up with

**Comment by mo271** [comment]
are you still working on this, @alphacolony ?
